US08809333B2
To a solution of ethyl (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoate (100 mg, 0.292 mmol) in dioxane (3 mL) was added a 2M LiOH solution (0.0876 mL, 1.75 mmol, 6 eq). The reaction was allowed to stir overnight at RT. The mixture was then acidified with 1M HCl. The aqueous phase was then extracted with EtOAc, dried (MgSO4), filtered, and concentrated in vacuo to give (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid (92 mg, 100% yield) which was used without further purification. LC-MS M+H+315.1.

reactant | ethyl (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoate | 0.292 mmol, 100 mg | C1(CCCC1)C=1C=NN(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C16H26N2O4S
reactant | LiOH | 1.75 mmol, 2M, 0.0876 mL, 6 eq | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-(4-cyclopentyl-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoic acid | 92 mg, 100% yield | C1(CCCC1)C=1C=NN(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C | C14H22N2O4S
